US04311651
A stirred mixture of 11.8 g (0.05 mol) of 2,2,2-trifluoro-1,1-bis(trifluoromethyl)ethanol in 40 ml of hexane was cooled to -10°, and 0.05 mol of butyllithium in hexane (1.6 M) was added dropwise. The reaction mixture was warmed to 25°, and the solid precipitate was collected on a filter and dried under a stream of dry nitrogen to give 10.69 g (88%) of lithium 2,2,2-trifluoro-1,1-bis(trifluoromethyl)ethoxide, mp 139° to 141° (dec.).

reactant | 2,2,2-trifluoro-1,1-bis(trifluoromethyl)ethanol | 0.05 mol, 11.8 g | FC(C(O)(C(F)(F)F)C(F)(F)F)(F)F | C4HF9O
reactant | butyllithium | 0.05 mol | C(CCC)[Li]
solvent | hexane | 40 ml | CCCCCC | C6H14
solvent | hexane | 1.6 M | CCCCCC | C6H14
product | lithium 2,2,2-trifluoro-1,1-bis(trifluoromethyl)ethoxide | 10.69 g, 88% | FC(C([O-])(C(F)(F)F)C(F)(F)F)(F)F.[Li+] | InChI=1S/C4F9O.Li/c5-2(6,7)1(14,3(8,9)10)4(11,12)13;/q-1;+1
